US04459414
4,5-Bis-(phenylthio)-3,6-dichlorophthalic acid N-n-butylimide
20 g (58.65 millimols) of tetrachlorophthalic acid N-n-butylimide, 33.64 g (243 millimols) of potassium carbonate, 13.57 g (123 millimols) of thiophenol and 150 ml of tetrahydrofuran are stirred at 25° C. for 18 hours. The mixture is acidified and extracted with methylene chloride. The extracts are dried and evaporated. After recrystallisation from toluene/cyclohexane, 23.88 g (83% of theory) of 4,5-bis-(phenylthio)-3,6-dichlorophthalic acid N-n-butylimide are obtained; melting point 215°-6° C.

reactant | tetrachlorophthalic acid N-n-butylimide | 58.65 millimols, 20 g | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C12H11Cl4NO3
reactant | potassium carbonate | 243 millimols, 33.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | thiophenol | 123 millimols, 13.57 g | C1(=CC=CC=C1)S | C6H6S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4,5-Bis-(phenylthio)-3,6-dichlorophthalic acid N-n-butylimide | C(CCC)N=C(C=1C(C(=O)O)=C(C(=C(C1Cl)SC1=CC=CC=C1)SC1=CC=CC=C1)Cl)O | C24H21Cl2NO3S2
